US04433152
5.5 g of o-benzyloxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride was dissolved in a solution of 60 ml of t-butyl alcohol and 60 ml of water. 225 mg of 10% paradium-carbon was added to the solution, and the mixture was stirred at room temperature for 1 hour in the presence of hydrogen (starting pressure: 2.4 kg/cm2). The catalyst was removed by filtration, and the solvent was removed. The residue was washed with t-butyl alcohol to obtain 3.5 g (yield: 79.7%) of o-hydroxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless needles having a melting point of 192° to 194° C.

reactant | o-benzyloxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 5.5 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C(=O)OCC1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
solvent | t-butyl alcohol | 60 ml | C(C)(C)(C)O | C4H10O
solvent | water | 60 ml | O | H2O
product | o-hydroxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 3.5 g, yield: 79.7% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C(=O)O | InChI=1S/C16H21N3O4.ClH/c17-16(18)19-9-7-11(8-10-19)5-6-14(20)23-13-4-2-1-3-12(13)15(21)22;/h1-4,11H,5-10H2,(H3,17,18)(H,21,22);1H
